US07868036B2
b) (R)-3-Methoxycarbonylmethyl-piperidine-1-carboxylic acid tert-butyl ester
Triethylamine (4.8 ml) is added to a solution of methyl (R)-3-piperidine acetate hydrochloride (Arch Corp.) in 100 ml of dichloromethane. The reaction solution is cooled to 0° C. and di-tert-butyl dicarbonate is added portionwise. The reaction solution is left to stand at room temperature for 16 hours and is then poured onto a saturated aqueous sodium hydrogencarbonate solution. The layers are separated and the aqueous layer is extracted with dichloromethane. The combined organic layers are washed with water, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.54 (1:1 EtOAc-heptane).

reactant | Triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | methyl (R)-3-piperidine acetate hydrochloride | Cl.N1C[C@H](CCC1)CC(=O)OC
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (R)-3-Methoxycarbonylmethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)CC(=O)OC | C13H23NO4
